*
C1 N154 N153 1µ
C2 N155 N154 2µ
C3 N156 N155 3µ
C4 N157 N156 4µ
C5 N158 N157 5µ
R1 N153 N012 100
C6 N159 N158 1µ
C7 N160 N159 2µ
C8 N161 N160 3µ
C9 N162 N161 4µ
C10 0 N162 5µ
V1 0 N001 SINE(0 20 1k)
C11 N141 N142 1µ
C12 N140 N141 2µ
C13 N139 N140 3µ
C14 N138 N139 4µ
C15 N137 N138 5µ
R2 N142 0 100
C16 N136 N137 1µ
C17 N135 N136 2µ
C18 N134 N135 3µ
C19 N133 N134 4µ
C20 N012 N133 5µ
C21 N114 N113 1µ
C22 N115 N114 2µ
C23 N116 N115 3µ
C24 N117 N116 4µ
C25 N118 N117 5µ
R3 N113 N012 100
C26 N119 N118 1µ
C27 N120 N119 2µ
C28 N121 N120 3µ
C29 N122 N121 4µ
C30 0 N122 5µ
C31 N101 N102 1µ
C32 N100 N101 2µ
C33 N099 N100 3µ
C34 N098 N099 4µ
C35 N097 N098 5µ
R4 N102 0 100
C36 N096 N097 1µ
C37 N095 N096 2µ
C38 N094 N095 3µ
C39 N093 N094 4µ
C40 N012 N093 5µ
C41 N074 N073 1µ
C42 N075 N074 2µ
C43 N076 N075 3µ
C44 N077 N076 4µ
C45 N078 N077 5µ
R5 N073 N012 100
C46 N079 N078 1µ
C47 N080 N079 2µ
C48 N081 N080 3µ
C49 N082 N081 4µ
C50 0 N082 5µ
C51 N061 N062 1µ
C52 N060 N061 2µ
C53 N059 N060 3µ
C54 N058 N059 4µ
C55 N057 N058 5µ
R6 N062 0 100
C56 N056 N057 1µ
C57 N055 N056 2µ
C58 N054 N055 3µ
C59 N053 N054 4µ
C60 N012 N053 5µ
C61 N034 N033 1µ
C62 N035 N034 2µ
C63 N036 N035 3µ
C64 N037 N036 4µ
C65 N038 N037 5µ
R7 N033 N012 100
C66 N039 N038 1µ
C67 N040 N039 2µ
C68 N041 N040 3µ
C69 N042 N041 4µ
C70 0 N042 5µ
C71 N021 N022 1µ
C72 N020 N021 2µ
C73 N019 N020 3µ
C74 N018 N019 4µ
C75 N017 N018 5µ
R8 N022 0 100
C76 N016 N017 1µ
C77 N015 N016 2µ
C78 N014 N015 3µ
C79 N013 N014 4µ
C80 N012 N013 5µ
C81 N144 N143 1µ
C82 N145 N144 2µ
C83 N146 N145 3µ
C84 N147 N146 4µ
C85 N148 N147 5µ
R9 N143 N001 100
C86 N149 N148 1µ
C87 N150 N149 2µ
C88 N151 N150 3µ
C89 N152 N151 4µ
C90 N012 N152 5µ
C91 N131 N132 1µ
C92 N130 N131 2µ
C93 N129 N130 3µ
C94 N128 N129 4µ
C95 N127 N128 5µ
R10 N132 N012 100
C96 N126 N127 1µ
C97 N125 N126 2µ
C98 N124 N125 3µ
C99 N123 N124 4µ
C100 N001 N123 5µ
C101 N104 N103 1µ
C102 N105 N104 2µ
C103 N106 N105 3µ
C104 N107 N106 4µ
C105 N108 N107 5µ
R11 N103 N001 100
C106 N109 N108 1µ
C107 N110 N109 2µ
C108 N111 N110 3µ
C109 N112 N111 4µ
C110 N012 N112 5µ
C111 N091 N092 1µ
C112 N090 N091 2µ
C113 N089 N090 3µ
C114 N088 N089 4µ
C115 N087 N088 5µ
R12 N092 N012 100
C116 N086 N087 1µ
C117 N085 N086 2µ
C118 N084 N085 3µ
C119 N083 N084 4µ
C120 N001 N083 5µ
C121 N064 N063 1µ
C122 N065 N064 2µ
C123 N066 N065 3µ
C124 N067 N066 4µ
C125 N068 N067 5µ
R13 N063 N001 100
C126 N069 N068 1µ
C127 N070 N069 2µ
C128 N071 N070 3µ
C129 N072 N071 4µ
C130 N012 N072 5µ
C131 N051 N052 1µ
C132 N050 N051 2µ
C133 N049 N050 3µ
C134 N048 N049 4µ
C135 N047 N048 5µ
R14 N052 N012 100
C136 N046 N047 1µ
C137 N045 N046 2µ
C138 N044 N045 3µ
C139 N043 N044 4µ
C140 N001 N043 5µ
C141 N024 N023 1µ
C142 N025 N024 2µ
C143 N026 N025 3µ
C144 N027 N026 4µ
C145 N028 N027 5µ
R15 N023 N001 100
C146 N029 N028 1µ
C147 N030 N029 2µ
C148 N031 N030 3µ
C149 N032 N031 4µ
C150 N012 N032 5µ
C151 N010 N011 1µ
C152 N009 N010 2µ
C153 N008 N009 3µ
C154 N007 N008 4µ
C155 N006 N007 5µ
R16 N011 N012 100
C156 N005 N006 1µ
C157 N004 N005 2µ
C158 N003 N004 3µ
C159 N002 N003 4µ
C160 N001 N002 5µ
.tran 0 1m 0 1u
.backanno
.end
